US08304443B2
6-(Tert-butyldiphenylsilyloxy)-3-cyclobutylindazole
3-Cyclobutylindazol-6-ol hydrochloride (6.45 g) which can be prepared according to the method described in Reference example 11, etc. and imidazole (5.039 g) were dissolved in DMF (100 mL; manufactured by Kanto Chemical Co., Inc.). Then, TBDPSCl (18.44 mL) was added and the mixture was stirred overnight at room temperature. To the reaction solution, water was added and extraction was carried out twice with ethyl acetate. The organic layer was washed twice with water and once with brine and dried over anhydrous sodium sulfate. After the solvent was evaporated under reduced pressure, the residue was purified by column chromatography (“COLUMN-A”; n-hexane:ethyl acetate=95:5→74:26) to obtain the title compound (9.93 g).

reactant | 3-Cyclobutylindazol-6-ol hydrochloride | 6.45 g | Cl.C1(CCC1)C1=NNC2=CC(=CC=C12)O
reactant | imidazole | 5.039 g | N1C=NC=C1 | C3H4N2
reactant | TBDPSCl | 18.44 mL | CC(C)(C)[Si](C1=CC=CC=C1)(C2=CC=CC=C2)Cl | C16H19ClSi
reactant | water | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 6-(Tert-butyldiphenylsilyloxy)-3-cyclobutylindazole | 9.93 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C2C(=NNC2=C1)C1CCC1 | C27H30N2OSi
